US04670193
1-(Benzyloxycarbonylamino)-2-phenylethyl-phosphonic acid
To a solution of 1-benzyloxycarbonylamino2-phenylethyl phosphonous acid (0.5 g, 0.0016 mole) in acetone (20 ml) and water (10 ml) was added a 10% solution of sodium hydroxide in water until a pH of about 7 was reached. A solution of KMnO4 (0.14 g, 0.00086 mole, 0.55 equiv.) in water (10 ml) was added slowly to the vigorously stirred solution of phosphonous acid at 20-25° C. After the addition (5 minutes), the reaction mixture was stirred for 5 minutes at ambient temperature and acidified with concentrated HCl acid until a pH of 1 was reached. Saturated sodium bisulfite solution was added to the reaction mixture thereby resulting in formation of a white precipitate.

reactant | 1-benzyloxycarbonylamino2-phenylethyl phosphonous acid | 0.0016 mole, 0.5 g | C(C1=CC=CC=C1)OC(=O)NC(CC1=CC=CC=C1)P(O)O | C16H18NO4P
reactant | sodium hydroxide | [OH-].[Na+]
reactant | KMnO4 | 0.00086 mole, 0.14 g, 0.55 equiv. | [O-][Mn](=O)(=O)=O.[K+]
reactant | phosphonous acid | P(O)O | H3O2P
reactant | HCl | Cl | ClH
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
solvent | acetone | 20 ml | CC(=O)C | C3H6O
solvent | water | 10 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | 1-(Benzyloxycarbonylamino)-2-phenylethyl-phosphonic acid | C(C1=CC=CC=C1)OC(=O)NC(CC1=CC=CC=C1)P(O)(O)=O | C16H18NO5P
